US08466282B2
1-tert-butyl 3-methyl(3R,5S)-5-[(2-methylpropyl){[1-(2-phenylethyl)-1H-benzimidazol-2-yl]carbonyl}amino]piperidine-1,3-dicarboxylate
To a solution of 1-tert-butyl 3-methyl(3R,5S)-5-[(1H-benzimidazol-2-ylcarbonyl)(2-methylpropyl)amino]piperidine-1,3-dicarboxylate (1.38 g) and (2-bromoethyl)benzene (810 μl) in N,N-dimethylacetamide (30 ml) was added cesium carbonate (2.93 g), and the mixture was stirred at 65° C. for 15 hr. (2-Bromoethyl)benzene (810 μl) was added to the reaction mixture, and the mixture was further stirred at 65° C. for 5 hr. The reaction mixture was cooled to room temperature, diluted with water and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (1:1) was concentrated under reduced pressure to give the object product (1.40 g).

reactant | 1-tert-butyl 3-methyl(3R,5S)-5-[(1H-benzimidazol-2-ylcarbonyl)(2-methylpropyl)amino]piperidine-1,3-dicarboxylate | 1.38 g | N1C(=NC2=C1C=CC=C2)C(=O)N([C@H]2C[C@H](CN(C2)C(=O)OC(C)(C)C)C(=O)OC)CC(C)C | C24H34N4O5
reactant | (2-bromoethyl)benzene | 810 μl | BrCCC1=CC=CC=C1 | C8H9Br
reactant | cesium carbonate | 2.93 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (2-Bromoethyl)benzene | 810 μl | BrCCC1=CC=CC=C1 | C8H9Br
solvent | N,N-dimethylacetamide | 30 ml | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 1-tert-butyl 3-methyl(3R,5S)-5-[(2-methylpropyl){[1-(2-phenylethyl)-1H-benzimidazol-2-yl]carbonyl}amino]piperidine-1,3-dicarboxylate | 1.40 g | CC(CN([C@H]1C[C@H](CN(C1)C(=O)OC(C)(C)C)C(=O)OC)C(=O)C1=NC2=C(N1CCC1=CC=CC=C1)C=CC=C2)C | C32H42N4O5
